US05021483
N,N',N"-Tris(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-1,3,5-triazine-2,4,6-tricarboxamide
The title compound is prepared by the reaction of triethyl 1,3,5-triazine-2,4,6-tricarboxylate and 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine.

reactant | triethyl 1,3,5-triazine-2,4,6-tricarboxylate | N1=C(N=C(N=C1C(=O)OCC)C(=O)OCC)C(=O)OCC | C12H15N3O6
reactant | 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine | NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C17H36N2O
product | N,N',N"-Tris(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-1,3,5-triazine-2,4,6-tricarboxamide | C(CCCCCCC)ON1C(CC(CC1(C)C)NC(=O)C1=NC(=NC(=N1)C(=O)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C(=O)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C57H105N9O6
